US04645765
8-Carbamoyloxymethyl-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate is reacted with p-toluenesulfonic acid according to a similar manner to that of Example 38 to give 8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate. Further, this product is subjected to catalytic reduction according to a similar manner to that of Example 17 to afford 8-carbamoyloxymethyl-4-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate.

reactant | 8-Carbamoyloxymethyl-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(OC)OC | C20H25N3O9
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)COC(N)=O)(O3)OC(C)=O)C=O | C18H19N3O8
